US07342118B2
2-(4-{2-[2-(3,5-Difluoro-phenyl)-2-hydroxy-acetylamino]-pentanoylamino}-imidazol-1-yl)-2-methyl-propionic acid methyl ester
2-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-2-methyl-propionic acid methyl ester was coupled with (3,5-Difluoro-phenyl)-hydroxy-acetic acid to provide the title compound: C13 NMR (100 MHz, CDCl3) 13.7, 13.8, 19.0, 19.1, 26.0, 35.3, 35.7, 53.0, 53.2, 53.3, 61.2, 61.3, 73.3, 73.4, 103.5, 103.7, 106.1, 106.3, 109.6, 109.8, 110.1, 131.6, 131.8, 137.0, 137.1, 144.0, 161.9, 164.3, 169.3, 169.6, 171.9, 172.0, 172.5; MS 453.20 m/z (M+1).

reactant | 2-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-2-methyl-propionic acid methyl ester | COC(C(C)(C)N1C=NC(=C1)NC(C(CCC)N)=O)=O | C13H22N4O3
reactant | (3,5-Difluoro-phenyl)-hydroxy-acetic acid | FC=1C=C(C=C(C1)F)C(C(=O)O)O | C8H6F2O3
product | 2-(4-{2-[2-(3,5-Difluoro-phenyl)-2-hydroxy-acetylamino]-pentanoylamino}-imidazol-1-yl)-2-methyl-propionic acid methyl ester | COC(C(C)(C)N1C=NC(=C1)NC(C(CCC)NC(C(O)C1=CC(=CC(=C1)F)F)=O)=O)=O | C21H26F2N4O5
